US04880838
Into a magnetically stirred solution of 3-chloro-4-(2,4-dichlorophenoxy)-5-methylaniline (9.0 grams, 29.7 mmol) in benzene (60 milliliters) was added solid N-chlorosuccinimide (4.4 grams, 32.7 mmol). The mixture was stirred at room temperature for 1.5 hours, transferred to a separatory funnel and washed with saturated Na2SO3 solution (3x), water (2x) and brine (1x). The organic layer was dried over Na2SO4 and concentrated under reduced pressure to afford the crude product (10.08 grams) as a dark brown oil. Flash column chromatography on 500 grams of silica gel (3:1 hexane:ethyl acetate) afforded pure 2,5-dichloro-4-(2,4-dichlorophenoxy)-3-methylaniline (2.85 grams, 7.4 mmol, 25%) having a melting point of 96° C.-97° C. and 2,3-dichloro-4-(2,4-dichlorophenoxy)-5-methylaniline (2.16 grams, 6.4 mmol, 22%) having a melting point of 95° C. Recrystallization from methanol afforded analytical samples. Elemental analysis of the samples indicated the following:

reactant | 3-chloro-4-(2,4-dichlorophenoxy)-5-methylaniline | 29.7 mmol, 9.0 grams | ClC=1C=C(N)C=C(C1OC1=C(C=C(C=C1)Cl)Cl)C | C13H10Cl3NO
reactant | N-chlorosuccinimide | 32.7 mmol, 4.4 grams | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | benzene | 60 milliliters | C1=CC=CC=C1 | C6H6
product | 2,5-dichloro-4-(2,4-dichlorophenoxy)-3-methylaniline | 7.4 mmol, 2.85 grams, 25% | ClC1=C(N)C=C(C(=C1C)OC1=C(C=C(C=C1)Cl)Cl)Cl | C13H9Cl4NO
